US04178459
p-Menthane-3-carboxylic acid (1.84 g.), was heated under reflux with thionyl chloride (4 ml.) for 3 hours. The excess of thionyl chloride was then distilled off in vacuo. The crude produce p-menth-3-oyl chloride was dissolved in diethyl ether (25 ml.) and the ethereal solution was added with stirring and cooling to a solution of ethylamine (1.0 ml. of 70% w/s solution in water) and sodium hydroxide (0.4 g.) in water (25 ml.). The mixture was stirred for one hour and the ethereal layer was then separated. The aqueous layer was washed with ether (25 ml.) and the combined ethereal solution was washed with dilute hydrochloric acid and then water. The ether solution was dried (MgSO4) and evaporated to give a white crystalline solid. This solid was recrystallized from acetone: water (9:1) by dissolving the crystals at room temperature and then cooling to produce N-ethyl-p-menthane-3-carboxamide as a white crystalline solid, mp. 82.5°-84.5°.

reactant | p-Menthane-3-carboxylic acid | 1.84 g | C1(CC(C(CC1)C(C)C)C(=O)O)C | C11H20O2
reactant | thionyl chloride | 4 ml | S(=O)(Cl)Cl | Cl2OS
product | p-menth-3-oyl chloride | C1(CC(C(CC1)C(C)C)C(=O)Cl)C | C11H19ClO
